US06897224B2
5-Aminoquinoline-2-carboxylic acid methylamide
76 mg (0.376 mmol) of 5-aminoquinoline-2-carboxylic acid methyl ester is dissolved with 10 ml of a 2.0 M methanolic methylamine solution. After 90 minutes under reflux and another 16 hours at room temperature, the solvent is removed under reduced pressure, and the residue is purified on silica gel with hexane-ethyl acetate (0-80%). 72 mg (95% of theory) of the product is obtained.

reactant | 5-aminoquinoline-2-carboxylic acid methyl ester | 0.376 mmol, 76 mg | COC(=O)C1=NC2=CC=CC(=C2C=C1)N | C11H10N2O2
reactant | methylamine | 2.0 M | CN | CH5N
product | 5-Aminoquinoline-2-carboxylic acid methylamide | CNC(=O)C1=NC2=CC=CC(=C2C=C1)N | C11H11N3O
